* PEX produced on Mi 16. Sep 21:44:07 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from osc_pex.ext - technology: ihp-sg13cmos5l

.subckt osc_pex VDD out1 ictrl VSS c1 out2 c2
X0 VDD ictrl c2 VDD sg13_hv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=2u
X1 VSS.t1 c2 out1 VSS.t5 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X2 out1 ictrl VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=3.4p ps=20.68u w=10u l=2u
X3 VSS.t3 c2 c2 VSS.t4 sg13_hv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=2u
X4 VDD ictrl out2 VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=2u
X5 ictrl ictrl VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=2u
X6 c1 ictrl VDD VDD sg13_hv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=2u
X7 c1 c1 VSS.t3 VSS.t2 sg13_hv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=2u
X8 out2 c1 VSS.t1 VSS.t0 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
R0 VSS.n15 VSS.n9 156.667
R1 VSS.n16 VSS.n11 68.9635
R2 VSS.n3 VSS.n5 0.0083616
R3 VSS.n13 VSS.n7 56.0615
R4 VSS.n14 VSS.t0 40.6302
R5 VSS.n15 VSS.t5 35.0005
R6 VSS.t5 VSS.n10 28.3338
R7 VSS.t0 VSS.n8 28.3338
R8 VSS.n5 VSS.n6 12.3667
R9 VSS.n5 VSS.n7 17.0005
R10 VSS.n5 VSS.n8 17.0005
R11 VSS.n5 VSS.n9 17.0005
R12 VSS.n5 VSS.n10 17.0005
R13 VSS.n5 VSS.n11 17.0005
R14 VSS.n5 VSS.n12 17.0005
R15 VSS.n0 VSS.n7 13.3438
R16 VSS.n1 VSS.n12 13.342
R17 VSS.n1 VSS.n11 12.7621
R18 VSS.n0 VSS.n8 12.7612
R19 VSS.n14 VSS.n9 11.26
R20 VSS.n16 VSS.n10 11.2593
R21 VSS.n2 VSS.n3 0.190086
R22 VSS.n2 VSS.n15 8.5005
R23 VSS.n4 VSS 0.163891
R24 VSS.n6 VSS.t2 2.42565
R25 VSS.n2 VSS.t3 5.66717
R26 VSS.t4 VSS.n12 3.33383
R27 VSS.n13 VSS.n6 12.8812
R28 VSS.n2 VSS.n14 1.91512
R29 VSS.n2 VSS.n16 1.91491
R30 VSS.n4 VSS.t1 2.43806
R31 VSS.n2 VSS.n13 1.62777
R32 VSS.n2 VSS.n4 0.0787908
R33 VSS.n2 VSS.n0 0.37141
R34 VSS.n2 VSS.n1 0.371345
R35 VSS.n3 VSS.t4 54.2575
C0 ictrl c1 0.4911f
C1 out1 VDD 2.9636f
C2 out1 c2 0.76341f
C3 out2 c1 0.76867f
C4 out2 ictrl 1.18684f
C5 VDD c1 2.24714f
C6 c2 c1 1.35354f
C7 VDD ictrl 13.4073f
C8 c2 ictrl 0.74891f
C9 out1 c1 54.8536f
C10 out2 VDD 3.05056f
C11 out2 c2 54.6792f
C12 out1 ictrl 0.97024f
C13 out2 out1 0.01655f
C14 c2 VDD 2.19623f
C15 out2 VSS 4.33595f
C16 out1 VSS 7.6006f
C17 VDD VSS 5.72753f
C18 VSS.t1 VSS 3.31476f
C19 VSS.t3 VSS 3.0243f
.ends

