* PEX produced on Fr 18. Sep 10:15:14 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from osc_pex.ext - technology: ihp-sg13cmos5l

.subckt osc_pex VDD out1 ictrl VSS c1 out2 c2
X0 VDD ictrl c2 VDD sg13_hv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=2u
X1 VSS.t1 c2 out1 VSS.t5 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X2 out1 ictrl VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=3.4p ps=20.68u w=10u l=2u
X3 VSS.t3 c2 c2 VSS.t4 sg13_hv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=2u
X4 VDD ictrl out2 VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=2u
X5 ictrl ictrl VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=2u
X6 c1 ictrl VDD VDD sg13_hv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=2u
X7 c1 c1 VSS.t3 VSS.t2 sg13_hv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=2u
X8 out2 c1 VSS.t1 VSS.t0 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
R0 VSS.t4 VSS.n0 9.09376
R1 VSS.n1 VSS.t0 19.5402
R2 VSS.n1 VSS.n0 0.138774
R3 VSS.n1 VSS.t5 19.4554
R4 VSS.n0 VSS 0.163854
R5 VSS.n0 VSS.t3 5.66717
R6 VSS.n0 VSS.t2 9.09228
R7 VSS.n0 VSS.t1 2.43808
C0 out1 VDD 2.9636f
C1 out2 ictrl 1.18684f
C2 out1 c1 54.8536f
C3 c2 ictrl 0.74891f
C4 c2 out2 54.6792f
C5 VDD ictrl 13.4073f
C6 c1 ictrl 0.4911f
C7 VDD out2 3.05056f
C8 c2 VDD 2.19623f
C9 out2 c1 0.76867f
C10 c2 c1 1.35354f
C11 out1 ictrl 0.97024f
C12 VDD c1 2.24714f
C13 out1 out2 0.01655f
C14 c2 out1 0.76341f
C15 out2 VSS 4.33595f
C16 out1 VSS 7.6006f
C17 VDD VSS 5.72753f
C18 VSS.t1 VSS 3.31476f
C19 VSS.t3 VSS 3.0243f
.ends

